US09340538B2
Step A: (S)-2-(benzylamino)-3-hydroxy-3-methylbutanoic acid
A mixture of (S)-2-amino-3-hydroxy-3-methylbutanoic acid (18.6 g, 140 mmol), aqueous NaOH solution (2 mol/L, 70 mL) and benzaldehyde (14.56 g, 137 mmol) was stirred at 25° C. for 1 hour and cooled to 0° C. Then to the mixture was added sodium borohydride (3 g, 80 mmol) portion wise with the temperature maintained below 10° C. Then the mixture was warmed to 25° C. and stirred for another 12 hours. The aqueous layer was washed with DCM (30 mL×3) and the organic layer was discarded. The aqueous layer was cooled to 5° C., and adjusted to pH 1-2 with con. HCl. The mixture was stirred at 5° C. for 4 hours, and filtered to give the title compound as a white solid (18.8 g, 60%). The compound was characterized by the following spectroscopic data:

reactant | (S)-2-amino-3-hydroxy-3-methylbutanoic acid | 140 mmol, 18.6 g | N[C@H](C(=O)O)C(C)(C)O | C5H11NO3
reactant | benzaldehyde | 137 mmol, 14.56 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 80 mmol, 3 g | [BH4-].[Na+]
solvent | NaOH | 2 mol/L, 70 mL | [OH-].[Na+]
product | (S)-2-(benzylamino)-3-hydroxy-3-methylbutanoic acid | 18.8 g, 60% | C(C1=CC=CC=C1)N[C@H](C(=O)O)C(C)(C)O | C12H17NO3
